US07012081B2
815 mg (5 mmol) of isatoic acid anhydride is dissolved in 15 ml of N,N-dimethylacetamide and mixed under cover gas and in a moisture-free environment with 220 mg (5.5 mmol) of sodium hydride (60% dispersion in mineral oil). It is heated for 1 hour to 60° C. After cooling, 885 mg (5 mmol) of cyclohexylmethyl bromide is added, and the batch is heated to 60° C. for 4 hours. It is then diluted with water to 60 ml and shaken out three times with ethyl acetate. The combined organic phase is washed with water, dried, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with hexane:ethyl acetate=1:1 as an eluant. 300 mg of N-cyclohexylmethylisatoic acid anhydride is obtained.

reactant | isatoic acid anhydride | 5 mmol, 815 mg | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | sodium hydride | 5.5 mmol, 220 mg | [H-].[Na+]
reactant | cyclohexylmethyl bromide | 5 mmol, 885 mg | C1(CCCCC1)CBr | C7H13Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-cyclohexylmethylisatoic acid anhydride | 300 mg | C1(CCCCC1)CN1C=2C(C(=O)OC1=O)=CC=CC2 | C15H17NO3
